US04472425
EXAMPLE 9: N-(2,2-dimethylhydrazino-acetyl)-N-(2,4-dimethylthien-3-yl)-alanine-methylester (process g)
A mixture of 8.5 g (0.02 mol) N-[(4-methylphenyl)-sulphonyloxyacetyl]-N-(2,4-dimethylthien-3-yl)-alanine-methylester (=Ex. 3.9) and 2.4 g (0.04 mol) 1,1-dimethylhydrazine in 150 ml ethanol is refluxed for four hours, then evaporated in vacuo, the residue taken up in dichloromethane, washed subsequently with water, aqueous 1 N HCl and water, dried over MgSO4, and evaporated in vacuo to yield the title compound.

reactant | N-[(4-methylphenyl)-sulphonyloxyacetyl]-N-(2,4-dimethylthien-3-yl)-alanine-methylester | 0.02 mol, 8.5 g | COC([C@@H](N(C1=C(SC=C1C)C)C(COS(=O)(=O)C1=CC=C(C=C1)C)=O)C)=O | C19H23NO6S2
reactant | 1,1-dimethylhydrazine | 0.04 mol, 2.4 g | CN(N)C | C2H8N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(2,2-dimethylhydrazino-acetyl)-N-(2,4-dimethylthien-3-yl)-alanine-methylester | COC([C@@H](N(C1=C(SC=C1C)C)C(CNN(C)C)=O)C)=O | C14H23N3O3S
